Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
Pedestrian struck by motor vehicle
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male presents with the above fracture after being clipped by 
a car while walking as a pedestrian. Patient fell after being 
clipped and sustained a head laceration, unknown LOC, abrasions 
to the face, and abrasions to the knees. Initial trauma workup 
and imaging was negative for acute head, neck, torso injury. 
Initial suspected L humeral defect on CT revealed to be motion
artifact on plain film.

After several days he had persistent TTP and pain on ambulation 
to the R ___ when initial ___ plain films were negative ACS 
obtained MR ___ which revealed ___ type III

 
Past Medical History:
PMH: none

PSH: tonsillectomy, ___ inguinal hernia repair

 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
Admission Physical Exam:
 
HR: 100 BP: 150/90 Resp: 22 O(2)Sat: 98% room air Normal
 
Constitutional: He is awake and alert with a GCS of 15
HEENT: Extraocular muscles intact and pupils are 3 mm and
reactive bilaterally
There is a 2 cm laceration with a scalp hematoma over the
forehead near the hairline. He has lip abrasions and facial
abrasions on the nose. There is no septal hematoma. Midface
is stable.
He is in a c-collar.
Chest: The chest wall is stable. Breath sounds are bilateral
Cardiovascular: Normal first and second heart sounds
Abdominal: The abdomen is soft without tenderness
GU/Flank: No spine tenderness or step off
Extr/Back: He has scattered abrasions on his knees and both
lower extremities. There is some tenderness over his left
___.
Skin: Warm and dry
Neuro: Speech fluent without any lateralizing motor findings
Psych: Normal mentation

Discharge Physical Exam: 
VS: Temp: 98.2, BP: 122/80, HR: 75, RR: 17
General: A+Ox3, NAD
CV: RRR
Pulm: CTA b/l
Skin: forehead laceration with sutures and 4x4 gauze dressing 
c/d/I
ABD: soft, non-distended, non-tender
Extremities: Bledsu brace applied to RLE. + 1 edema in RLE.  
Warm, well-perfused b/l
 
Pertinent Results:
___ 09:02PM   GLUCOSE-97 LACTATE-2.1* NA+-143 K+-3.7 
CL--104 TCO2-24
___ 08:55PM   UREA N-22* CREAT-1.1
___ 08:55PM   LIPASE-58
___ 08:55PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:55PM   WBC-8.4 RBC-4.43* HGB-13.6* HCT-39.7* MCV-90 
MCH-30.7 MCHC-34.3 RDW-12.4 RDWSD-40.4
___ 08:55PM   ___ PTT-35.4 ___
___ 08:55PM   PLT COUNT-191
___ 08:55PM   ___

Imaging: 

___: MR ___:
1. Marrow edema and fracture line involving the lateral tibial 
plateau, with a small amount of fat seen within the joint 
(lipohemarthrosis).  The appearance is compatible with a 
nondisplaced fracture of the lateral proximal tibia/tibial 
plateau.  (Mild depression of the tibial plateau articular 
surface may be present).  Although no obvious cortical 
interruption is identified, a subtle defect a subtle occult 
cortical defect is likely present. If clinically indicated, CT 
could help to more completely assess cortical integrity. 
2. Small focus of bone contusion in the proximal fibula. 
3. High-grade injury to the proximal portion of the tibial 
collateral ligament (i.e. superficial fibers of the medial 
collateral ligament).  This likely represents a complete 
tear/grade 3 sprain.  A very high-grade grade 2 sprain is 
considered much less likely.  The abnormality extends into the 
adjoining posterior fibers of the medial patellar retinaculum.  
There is likely also mild sprain of the 
superficial/meniscofemoral fibers of the deep MCL. 
4. Extensive interstitial, subcutaneous, and intramuscular 
edema, detailed 
above. 
5. Cruciate and lateral collateral ligaments are intact. 
6. No medial or lateral meniscal tear is detected. 

___: Left ___ and Femur:
No fracture.  Curvilinear 1.6 cm radiopaque foreign body 
potentially within the subcutaneous soft tissues of the thigh.

___: ___ foot x-ray (AP&lateral):
No fracture. 
  

 
Brief Hospital Course:
Mr. ___ is a ___ year-old male who presented to ___ on 
___ s/p pedestrian struck by motor vehicle.  He had imaging 
in the ED which was negative for injury, but was admitted to the 
Trauma service for pain control and to assess mobility. 

While ambulating, the patient endorsed ___ pain which 
warranted an MRI.  The MRI revealed a ___ tibial plateau 
fracture and the Orthopaedics team was consulted. On HD4, the 
patient received ___ brace and was instructed to remain 
weight-bearing as tolerated. Physical Therapy worked with the 
patient and recommended his discharge to home with outpatient 
Physical Therapy.  Prescriptions for a rolling walker and 
outpatient physical therapy were provided.  

The remainder of the ___ hospital course is summarized by 
systems below:

Neuro: The patient was alert and oriented throughout 
hospitalization; once tolerating a diet, he was started on oral 
pain medication. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient was initially kept NPO with a 
___ tube in place for decompression.  The diet was 
advanced sequentially to a Regular diet, which was well 
tolerated. Patient's intake and output were closely monitored

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. Follow-up appointments were 
made with the ___ clinic and his primary care provider.

 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0
2. Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine HCl-menthol [Pain Relief (lidocaine HCl)] 5 %-1 % 
1 patch to ___ daily Disp #*20 Patch Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0
4. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0
5. Rolling Walker
Dx: ___ tibial plateau fracture 
Px: Good
Duration: 13 (thirteen) months
6. Outpatient Physical Therapy
Dx: ___ tibial plateau fracture
Px: Good
Duration: 6 (six) months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Pedestrian struck by motor vehicle 

2. Forehead laceration 

3. ___ lateral proximal tibial plateau fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ on ___ after being struck by a 
vehicle. You sustained facial abrasions and a ___ injury. 
You were admitted to the Trauma/Acute Care Surgery Team for 
further medical management. 

You were evaluated by the Orthopaedics team for your ___ tibia 
plateau fracture and were fitted for ___ brace.  An 
outpatient follow-up appointment has been scheduled for you with 
the ___ clinic. You were seen by Physical Therapy who 
cleared you for discharge to home with outpatient physical 
therapy recommended. 

You are tolerating a regular diet, have ambulated and your pain 
is better controlled.  You are now medically cleared to be 
discharged to home to continue your recovery. 

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___